US07297713B2
Ethyl[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]carbamate
The title compound was prepared according to the general procedure for acylation of 5-(4-aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile using ethyl chloroformate (53 μL, 0.55 mmol) to provide ethyl[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]carbamate (0.026 g).

reactant | 5-(4-aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile | NC1=CC=C(C=C1)C1=CC=C(N1C)C#N | C12H11N3
reactant | ethyl chloroformate | 0.55 mmol, 53 μL | ClC(=O)OCC | C3H5ClO2
product | ethyl[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]carbamate | 0.026 g | C(C)OC(NC1=CC=C(C=C1)C=1N(C(=CC1)C#N)C)=O | C15H15N3O2
